US04443621
Heterocyclic molecules are also derived from the above polyfunctional small molecules, which behave similarly. For example, 5-bromo-4,4-diethoxy-3-oxovaleronitrile is reacted with hydrazine, forming (via hydrazone formation, cyclization and ethanol elimination) 3-cyanomethyl-4-ethoxypyrazole; and acetimido 3-bromo-2,2-diethoxypropionate is cyclized on warming to produce 3-methyl-5-(2-bromo-1,1-diethoxyethyl)-1,2,5-oxadiazole. The latter is deketalized by warming in 95% formic acid to produce the corresponding 3-methyl-5-(2-bromoacetyl)-1,2,5-oxadiazole.

reactant | 5-bromo-4,4-diethoxy-3-oxovaleronitrile | BrCC(C(CC#N)=O)(OCC)OCC | C9H14BrNO3
reactant | hydrazine | NN | H4N2
product | 3-cyanomethyl-4-ethoxypyrazole | C(#N)CC1=NNC=C1OCC | C7H9N3O
